US08685541B2
16.09 g (0.259 mol) of Potassium hydroxide (86%) are placed in a 500 ml three necked round bottomed flask equipped with a magnetic stirrer and a reflux condenser. 200 ml of THF and 6.5 ml of Dichloromethane are added. The mixture is refluxed. After 1 hour the mixture is cooled to room temperature. A solution of 8 g (37.74 mmol) dibenzofuran-4-boronic acid, 0.8 g (3.02 mmol) of Triphenylphosphine, 339 mg (0.7 mmol) of Palladium (II) acetate and 200 ml of Methanol are added. The reaction mixture is heated to 60° C. internal temperature. After 2 hours the reaction is complete and cooled down to room temperature. The mixture is diluted with H2O and Ethylacetate. The organic phase is extracted twice with water and once with brine. The organic phase is dried over Sodiumsulfate and the solvent evaporated. The crude product is purified by column chromatography (Heptane). 4-Vinyl-dibenzofuran is isolated in 42% yield.

reactant | Potassium hydroxide | 0.259 mol, 16.09 g | [OH-].[K+]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | dibenzofuran-4-boronic acid | 37.74 mmol, 8 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | Triphenylphosphine | 3.02 mmol, 0.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | H2O | O | H2O
solvent | Ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | Palladium (II) acetate | 0.7 mmol, 339 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Methanol | 200 ml | CO | CH4O
solvent | Dichloromethane | 6.5 ml | ClCCl | CH2Cl2
product | 4-Vinyl-dibenzofuran | 42% yield | C(=C)C1=CC=CC2=C1OC1=C2C=CC=C1 | C14H10O
